* d:\fossee\esim\library\subcircuitlibrary\cd4555\cd4555.cir

.include 3_and.sub
* u2  net-_u1-pad2_ net-_u2-pad2_ d_inverter
* u5  net-_u2-pad2_ net-_u5-pad2_ d_inverter
* u3  net-_u1-pad3_ net-_u3-pad2_ d_inverter
* u6  net-_u3-pad2_ net-_u6-pad2_ d_inverter
* u4  net-_u1-pad1_ net-_u4-pad2_ d_inverter
x1 net-_u2-pad2_ net-_u3-pad2_ net-_u4-pad2_ net-_u12-pad1_ 3_and
x2 net-_u5-pad2_ net-_u3-pad2_ net-_u4-pad2_ net-_u13-pad1_ 3_and
x3 net-_u2-pad2_ net-_u6-pad2_ net-_u4-pad2_ net-_u14-pad1_ 3_and
x4 net-_u5-pad2_ net-_u6-pad2_ net-_u4-pad2_ net-_u15-pad1_ 3_and
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
* u7  net-_u1-pad14_ net-_u10-pad1_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u8  net-_u1-pad13_ net-_u11-pad1_ d_inverter
* u11  net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u9  net-_u1-pad15_ net-_u9-pad2_ d_inverter
x5 net-_u10-pad1_ net-_u11-pad1_ net-_u9-pad2_ net-_u16-pad1_ 3_and
x6 net-_u10-pad2_ net-_u11-pad1_ net-_u9-pad2_ net-_u17-pad1_ 3_and
x7 net-_u10-pad1_ net-_u11-pad2_ net-_u9-pad2_ net-_u18-pad1_ 3_and
x8 net-_u10-pad2_ net-_u11-pad2_ net-_u9-pad2_ net-_u19-pad1_ 3_and
* u12  net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u13  net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u14  net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u15  net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u16  net-_u16-pad1_ net-_u16-pad2_ d_inverter
* u17  net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u18  net-_u18-pad1_ net-_u18-pad2_ d_inverter
* u19  net-_u19-pad1_ net-_u19-pad2_ d_inverter
* u20  net-_u12-pad2_ net-_u1-pad4_ d_inverter
* u21  net-_u13-pad2_ net-_u1-pad5_ d_inverter
* u22  net-_u14-pad2_ net-_u1-pad6_ d_inverter
* u23  net-_u15-pad2_ net-_u1-pad7_ d_inverter
* u24  net-_u16-pad2_ net-_u1-pad12_ d_inverter
* u25  net-_u17-pad2_ net-_u1-pad11_ d_inverter
* u26  net-_u18-pad2_ net-_u1-pad10_ d_inverter
* u27  net-_u19-pad2_ net-_u1-pad9_ d_inverter
a1 net-_u1-pad2_ net-_u2-pad2_ u2
a2 net-_u2-pad2_ net-_u5-pad2_ u5
a3 net-_u1-pad3_ net-_u3-pad2_ u3
a4 net-_u3-pad2_ net-_u6-pad2_ u6
a5 net-_u1-pad1_ net-_u4-pad2_ u4
a6 net-_u1-pad14_ net-_u10-pad1_ u7
a7 net-_u10-pad1_ net-_u10-pad2_ u10
a8 net-_u1-pad13_ net-_u11-pad1_ u8
a9 net-_u11-pad1_ net-_u11-pad2_ u11
a10 net-_u1-pad15_ net-_u9-pad2_ u9
a11 net-_u12-pad1_ net-_u12-pad2_ u12
a12 net-_u13-pad1_ net-_u13-pad2_ u13
a13 net-_u14-pad1_ net-_u14-pad2_ u14
a14 net-_u15-pad1_ net-_u15-pad2_ u15
a15 net-_u16-pad1_ net-_u16-pad2_ u16
a16 net-_u17-pad1_ net-_u17-pad2_ u17
a17 net-_u18-pad1_ net-_u18-pad2_ u18
a18 net-_u19-pad1_ net-_u19-pad2_ u19
a19 net-_u12-pad2_ net-_u1-pad4_ u20
a20 net-_u13-pad2_ net-_u1-pad5_ u21
a21 net-_u14-pad2_ net-_u1-pad6_ u22
a22 net-_u15-pad2_ net-_u1-pad7_ u23
a23 net-_u16-pad2_ net-_u1-pad12_ u24
a24 net-_u17-pad2_ net-_u1-pad11_ u25
a25 net-_u18-pad2_ net-_u1-pad10_ u26
a26 net-_u19-pad2_ net-_u1-pad9_ u27
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
